US09079866B2
5-[3-Fluoro-2′-(1-methylethoxy)biphenyl-4-yl]pyrazin-2-amine
The title compound was prepared using methods analogous to those described in Example 369 3 using (2-isopropoxyphenyl)boronic acid and 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine in Step B. MS (ESI): mass calcd. for C19H18FN3O, 323.14; m/z found, 324.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.63-8.57 (m, 1H), 8.12 (d, J=1.4, 1H), 7.97-7.87 (m, 1H), 7.48-7.42 (m, 1.5H), 7.42-7.34 (m, 1.5H), 7.34-7.28 (m, 1H), 7.07-6.97 (m, 2H), 4.65 (s, 2H), 4.59-4.44 (m, 1H), 1.29 (d, J=6.1, 6H).

reactant | (2-isopropoxyphenyl)boronic acid | C(C)(C)OC1=C(C=CC=C1)B(O)O | C9H13BO3
reactant | 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7BrFN3
product | 5-[3-Fluoro-2′-(1-methylethoxy)biphenyl-4-yl]pyrazin-2-amine | FC=1C=C(C=CC1C=1N=CC(=NC1)N)C1=C(C=CC=C1)OC(C)C | C19H18FN3O
